US05942514
Using an analogous reductive amination procedure to that described in Example 1, 6-amino-4-(2',4'-difluoroanilino)quinazoline was reacted with 2-methoxyacetaldehyde dimethyl acetal to give 4-(2',4'-difluoroanilino)-6-(2-methoxyethylamino)quinazoline in 28% yield, m.p. 175-176° C.; NMR Spectrum: 3.31 (s, 3H), 3.38 (t, 2H), 3.61 (t, 2H), 6.19 (t, 1H), 7.07-7.18 (m, 2H), 7.27-7.38 (m, 2H), 7.48-7.6 (m, 2H), 8.2 (s, 1H), 9.3 (broad s, 1H); Elemental Analysis: Found C, 61.7; H, 4.9; N, 16.9; C17H16F2N4O requires C, 61.8; H, 4.9; N, 17.0%.

reactant | 6-amino-4-(2',4'-difluoroanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1)NC1=C(C=C(C=C1)F)F | C14H10F2N4
reactant | 2-methoxyacetaldehyde dimethyl acetal | COC(COC)OC | C5H12O3
product | 4-(2',4'-difluoroanilino)-6-(2-methoxyethylamino)quinazoline | 28% yield | FC1=C(NC2=NC=NC3=CC=C(C=C23)NCCOC)C=CC(=C1)F | C17H16F2N4O
